US04021451
6,7-Dimethoxy-1-methyl-4 -oxo-1-isochromanpropionic acid
A solution of chromium trioxide (25.7 g) is a mixture of acetic acid (120 ml) and water (35 ml) is added dropwise to a solution of 6,7-dimethoxy-1-methylisochroman propionic acid (27.0 g), described in Example 16, in acetic acid (140 ml) keeping the temperature of the mixture below 20° C. The mixture is kept at room temperature for 1.5 hr. and then poured into water and extracted with chloroform. The extracts are thoroughly washed with water, dried and evaporated. The residue is crystallized from benzene to give the title compound, m.p. 172° - 173° C.

reactant | water | 35 ml | O | H2O
reactant | 6,7-dimethoxy-1-methylisochroman propionic acid | 27.0 g | COC=1C=C2CCOC(C2=CC1OC)(CCC(=O)O)C | C15H20O5
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 25.7 g | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 6,7-Dimethoxy-1-methyl-4 -oxo-1-isochromanpropionic acid | COC=1C=C2C(COC(C2=CC1OC)(CCC(=O)O)C)=O | C15H18O6
